US08497271B2
A precooled (0° C.) solution of tert-butyl (R)-2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-1-(4-((S)-2-methylbutoxy)phenyl)ethylcarbamate (250 mg, 0.55 mmol) and dichloromethane (10 mL) was treated dropwise with trifluoroacetic acid (2 mL). The resulting solution was maintained at room temperature for 16 h, then concentrated to afford a yellow oil that was dissolved in dichloromethane (5 mL) and added to a room temperature solution of 2-thiophen-2-yl-cyclopropane carbonylchloride (100 mg, 0.60 mmol), triethylamine (0.20 mL, 1.4 mmol) and dichloromethane (4 mL). The resulting reaction was maintained overnight, then transferred to a separatory funnel and partitioned between ethyl acetate (15 mL) and saturated aqueous sodium bicarbonate (15 mL). The layers were separated, and the aqueous layer was extracted with ethyl acetate (15 mL). The combined organic layers were washed with water (15 mL) and brine (15 mL), then dried (MgSO4), filtered and concentrated to afford a residue that was purified by column chromatography on silica gel (10%-50% ethyl acetate in hexanes) to afford (1S,2S)-2-thiophen-2-yl-cyclopropanecarboxylic acid {(R)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1-[4-((S)-2-methyl-butoxy)-phenyl]-ethyl}-amide as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.88 (dd, J=5.6, 3.0 Hz, 2H), 7.76 (dd, J=5.6, 3.0 Hz, 2 H), 7.29-7.34 (m, 2H), 7.07 (dd, J=5.2, 1.1 Hz, 1H), 6.87-6.92 (m, 3H), 6.77 (d, J=3.0 Hz, 1H), 6.59 (d, J=7.8 Hz, 1H), 5.29-5.37 (m, 1H), 4.03 (dd, J=14.1, 10.1 Hz, 1H), 3.97 (dd, J=14.1, 4.0 Hz, 1H), 3.81 (dd, J=8.8, 5.8 Hz, 1H), 3.73 (dd, J=9.1, 6.8 Hz, 1H), 2.57 (ddd, J=9.5, 5.9, 4.0 Hz, 1H), 1.86 (dq, J=13.1, 6.5 Hz, 1H), 1.66 (ddd, J=8.4, 5.1, 4.2 Hz, 1H), 1.52-1.63 (m, 2H), 1.23-1.36 (m, 2H), 1.14 (ddd, J=8.3, 6.3, 4.3 Hz, 1H), 1.02 (d, J=6.6 Hz, 3H), 0.96 (t, J=7.5 Hz, 3H).

reactant | tert-butyl (R)-2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-1-(4-((S)-2-methylbutoxy)phenyl)ethylcarbamate | 0.55 mmol, 250 mg | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H](C1=CC=C(C=C1)OC[C@H](CC)C)NC(OC(C)(C)C)=O | C26H32N2O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-thiophen-2-yl-cyclopropane carbonylchloride | 0.60 mmol, 100 mg | S1C(=CC=C1)C1C(C1)C(=O)Cl | C8H7ClOS
reactant | triethylamine | 1.4 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (1S,2S)-2-thiophen-2-yl-cyclopropanecarboxylic acid {(R)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-1-[4-((S)-2-methyl-butoxy)-phenyl]-ethyl}-amide | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H](C1=CC=C(C=C1)OC[C@H](CC)C)NC(=O)[C@@H]1[C@H](C1)C=1SC=CC1 | C29H30N2O4S
